US07625902B2
In analogy to example 2, N-{2-[4-(2,5-dimethyl-phenyl)-piperazin-1-yl]-1-hydroxymethyl-2-oxo-ethyl}-4-methyl-benzenesulfonamide was reacted with triphenylphosphine and diethylazodicarboxylate to give [4-(2,5-dimethyl-phenyl)-piperazin-1-yl]-[1-(toluene-4-sulfonyl)-aziridin-2-yl]-methanone.

reactant | N-{2-[4-(2,5-dimethyl-phenyl)-piperazin-1-yl]-1-hydroxymethyl-2-oxo-ethyl}-4-methyl-benzenesulfonamide | CC1=C(C=C(C=C1)C)N1CCN(CC1)C(C(CO)NS(=O)(=O)C1=CC=C(C=C1)C)=O | C22H29N3O4S
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
product | [4-(2,5-dimethyl-phenyl)-piperazin-1-yl]-[1-(toluene-4-sulfonyl)-aziridin-2-yl]-methanone | CC1=C(C=C(C=C1)C)N1CCN(CC1)C(=O)C1N(C1)S(=O)(=O)C1=CC=C(C=C1)C | C22H27N3O3S
